US08871738B2
To (4S)-3-[(2E)-but-2-enoyl]-4-phenyl-1,3-oxazolidin-2-one (13.8 g, 59.7 mmol) in DCM (100 mL) was added TiCl4 (1M in DCM, 59.7 mL, 59.7 mmol) at −10° C. The resulting reaction solution was transferred by cannula to a flask containing DIPEA (11.26 mL, 64.5 mmol) and DCM (100 mL) at 10° C. NMP (11.49 mL, 119 mmol) was added via a syringe and the reaction mixture was aged for 1 hour before cooling to −40° C. 3,5-Bis(trifluoromethyl)benzaldehyde (17.3 g, 71.6 mmol) in DCM (25 mL) was added via a syringe and the reaction was allowed to warm to 0° C. over 1.5 hr. The reaction was quenched by addition of acetic acid (15 mL), saturated Rochelle's salt (50 mL) and HCl (1.0 M, 200 mL). The organic was separated and the aqueous was back extracted with DCM (50 mL). The organics were combined, washed with HCl (1.0 M, 100 mL), dried over sodium sulfate, filtered and concentrated. The resultant oil was purified by column chromatography to give (4S)-3-{(2S)-2-[(S)-[3,5-bis(trifluoromethyl)phenyl](hydroxy)methyl]but-3-enoyl}-4-phenyl-1,3-oxazolidin-2-one (20 g, 42.3 mmol) as crystalline solid. 1H NMR (500 MHz, CDCl3) δ7.86 (s, 2H), 7.83 (s, 1H), 7.4 (m, 5H), 5.7 (m, 1H), 5.4 (m, 1H), 5.31 (d, J=10.3 Hz, 1H), 5.28 (d, J=3.9 Hz, 1H), 5.10 (d, J=17.3 Hz, 1H), 4.8 (m, 1H), 4.7 (t, J=9.0 Hz, 1H), 4.3 (m, 1H).

reactant | (4S)-3-[(2E)-but-2-enoyl]-4-phenyl-1,3-oxazolidin-2-one | 59.7 mmol, 13.8 g | C(\C=C\C)(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O | C13H13NO3
reactant | DIPEA | 64.5 mmol, 11.26 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NMP | 119 mmol, 11.49 mL | CN1CCCC1=O | C5H9NO
reactant | 3,5-Bis(trifluoromethyl)benzaldehyde | 71.6 mmol, 17.3 g | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 59.7 mmol, 1M, 59.7 mL | Cl[Ti](Cl)(Cl)Cl
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (4S)-3-{(2S)-2-[(S)-[3,5-bis(trifluoromethyl)phenyl](hydroxy)methyl]but-3-enoyl}-4-phenyl-1,3-oxazolidin-2-one | 42.3 mmol, 20 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@H]([C@@H](C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)C=C)O)(F)F | C22H17F6NO4
